US04588812
A suspension of sodium borohydride (3.03 g, 0.08 mol) and 4.38 g (0.034 mol) tellurium powder in 135 ml anhydrous ethanol was heated under nitrogen atmosphere for 15 min. After cooling to -20° C., 8.08 ml glacial acetic acid in 33.65 ml anhydrous ethanol was added dropwise, and the mixture was stirred at that temperature for 5 min, followed by the addition of 3.50 g (0.013 mol) of (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic acid methyl ester in 13.5 ml anhydrous ethanol. The reaction mixture was allowed to warm up to ambient temperature and stirred overnight. Then, the mixture was filtered through celite, and evaporated under reduced pressure. The residue was taken up in water and extracted with chloroform. The organic extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure, yielding 1.16 g of 2,3-dihydro-3-oxo-5H-thiazolo[2,3-b]quinazoline-2-acetic acid methyl ester. Mp 143°-144° C. after recrystallization from ethyl acetate.

reactant | sodium borohydride | 0.08 mol, 3.03 g | [BH4-].[Na+]
reactant | tellurium | 0.034 mol, 4.38 g | [Te] | Te
reactant | acetic acid | 8.08 ml | C(C)(=O)O | C2H4O2
reactant | (3-oxo-5H-thiazolo[2,3-b]quinazolin-2(3H)-ylidene)acetic acid methyl ester | 0.013 mol, 3.50 g | COC(C=C1C(N2C(=NC3=CC=CC=C3C2)S1)=O)=O | C13H10N2O3S
solvent | ethanol | 135 ml | C(C)O | C2H6O
solvent | ethanol | 33.65 ml | C(C)O | C2H6O
solvent | ethanol | 13.5 ml | C(C)O | C2H6O
product | 2,3-dihydro-3-oxo-5H-thiazolo[2,3-b]quinazoline-2-acetic acid methyl ester | 1.16 g | COC(CC1C(N2C(=NC3=CC=CC=C3C2)S1)=O)=O | C13H12N2O3S
